US04070374
Example 105 illustrates the use of palladium metal as catalyst. 1.0 g of 5% palladium on charcoal, 0.24 g triphenyl-phosphine, 20 ml dimethylformamide, 7.9 g bromobenzene, 4.5 g 3-methyl-buten-3-ol, 0.5 g diisopropylethylamine and 5.0 g sodiumbicarbonate were heated to 130° for 2 hours to give a 92% conversion to 3-methyl-1-phenyl-buten-3-ol (analysis by glc).

reactant | triphenyl-phosphine | 0.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromobenzene | 7.9 g | BrC1=CC=CC=C1 | C6H5Br
reactant | 3-methyl-buten-3-ol | 4.5 g | CC(C=C)(C)O | C5H10O
reactant | diisopropylethylamine | 0.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodiumbicarbonate | 5.0 g | C([O-])(O)=O.[Na+]
catalyst | palladium | [Pd] | Pd
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-methyl-1-phenyl-buten-3-ol | CC(C=CC1=CC=CC=C1)(C)O | C11H14O
